US08809376B2
{(S)-6-[(R)-4-(6-Chloro-pyridin-3-ylmethyl)-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester and 6-chloro-pyridin-3-ylmethylzinc chloride following a procedure analogous to that described in Step 6 of Intermediate 1. LC (method 4): tR=1.17 min; Mass spectrum (ESI+): m/z=475/477 [M+H]+.

reactant | {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)Br)=O | C21H18BrNO4
reactant | 6-chloro-pyridin-3-ylmethylzinc chloride | [Cl-].ClC1=CC=C(C=N1)C[Zn+]
product | {(S)-6-[(R)-4-(6-Chloro-pyridin-3-ylmethyl)-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)CC=2C=NC(=CC2)Cl)=O | C27H23ClN2O4
